US04233318
To a mixture of 3.1 grams (0.02 mole) of n-heptyl isothiocyanate and 25 milliliters of benzene was added 1.77 milliliters (0.02 mole) of furfuryl amine. The mixture was refluxed for 30 minutes on a steam bath and then evaporated under vacuum to yield 1-n-heptyl-3-furfuryl thiourea. The product was cooled and 4.1 grams (0.02 mole) of bromoethylamine hydrobromide and 25 milliliters of ethanol 2B was added. The resulting mixture was refluxed on a steam bath overnight. The solid product was removed by filtration and air dried. A yield of 5.2 grams of solid, melting point 140°-145° C., was obtained. Structure of the product was confirmed by NMR.

reactant | n-heptyl isothiocyanate | 0.02 mole, 3.1 grams | C(CCCCCC)N=C=S | C8H15NS
reactant | furfuryl amine | 0.02 mole, 1.77 milliliters | C(C1=CC=CO1)N | C5H7NO
solvent | benzene | 25 milliliters | C1=CC=CC=C1 | C6H6
product | 1-n-heptyl-3-furfuryl thiourea | C(CCCCCC)NC(=S)NCC1=CC=CO1 | C13H22N2OS
